US05663395
67.37 g (0.125 mol) of bis(triethoxysilylpropyl)tetrasulphane in 60 ml of ethanol are introduced into a 250 ml three-necked flask equipped with a magnetic stirrer and reflux condenser. 65.57 g (0.250 mol) of solid triphenylphosphane are added to this mixture. The mixture is refluxed for 4 hours. After cooling to room temperature, the solvent is distilled off in a rotary evaporator. The solid/liquid mixture is allowed to stand for 2 hours at room temperature until the solid has completely crystallized and the mixture is filtered. The filter cake is washed three times with 50 ml of petroleum ether. Once the petroleum ether has been stripped out of the filtrate, pure bis(triethoxysilylpropyl)disulphane is obtained (verified by 1H-NMR spectroscopy).

reactant | bis(triethoxysilylpropyl)tetrasulphane | 0.125 mol, 67.37 g | C(C)O[Si](OCC)(OCC)CCCSSSSCCC[Si](OCC)(OCC)OCC | C18H42O6S4Si2
reactant | triphenylphosphane | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | bis(triethoxysilylpropyl)disulphane | C(C)O[Si](OCC)(OCC)CCCSSCCC[Si](OCC)(OCC)OCC | C18H42O6S2Si2
